US08008481B2
Di-tert-butyldicarbonate (0.068 g, 0.31 mmol) was added to a solution of 1H-indole-4-carboxylic acid methyl ester (Aldrich, 0.050 g, 28 mmol) and 4-dimethylaminopyridine (0.7 mg, 0.006 mmol) in methylene chloride (1.0 mL, 0.016 mol). After 45 minutes, the mixture was quenched and acidified with 1N HCl to about a pH 4. Methylene chloride was added and the layers were separated. The aqueous layer was further extracted with methylene chloride and the combined organics were dried over anhydrous MgSO4 and concentrated to yield indole-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (0.072 g, 92% yield); (DMSO-d6, 400 MHz) δ 8.37 (d, 1H), 7.91 (d, 1H), 7.86 (d, 1H), 7.46 (t, 1H), 7.21 (d, 1H), 3.92 (s, 3H), 1.65 (s, 10H); RP-HPLC (Table 1, Method e) Rt=2.7, m/z: (M+H)+ 276.3.

reactant | Di-tert-butyldicarbonate | 0.31 mmol, 0.068 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1H-indole-4-carboxylic acid methyl ester | 28 mmol, 0.050 g | COC(=O)C=1C=2C=CNC2C=CC1 | C10H9NO2
reactant | methylene chloride | 0.016 mol, 1.0 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.006 mmol, 0.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | indole-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 0.072 g, 92% yield | COC(=O)C=1C=2C=CN(C2C=CC1)C(=O)OC(C)(C)C | C15H17NO4
